US09284323B2
To a solution of 3,4-dimethylnaphthalen-1-ol (3.18 g, 18.46 mmol) in dichloromethane (180 mL) at −40° C. was added a 1M solution of titanium tetrachloride in dichloromethane (18.46 mL, 18.46 mmol) over 10 minutes. In a separate flask, ethyl glyoxalate (2.26 g, 22.16 mmol) was heated at 100° C. for 45 minutes. The colorless oil was dissolved in dichloromethane (20 mL) and added to the reaction mixture over 10 minutes. The reaction mixture was stirred at −40° C. for 1.5 hours, then warmed to −25° C. over 30 minutes. The reaction mixture was quenched with acetic acid (5.8 mL). Acetonitrile (30 mL) was added and the reaction mixture was stirred for 5 minutes. The cold bath was removed and water (59 mL) was added and stirred for 15 minutes. The mixture was diluted with water and brine and extracted with dichloromethane (3×). The combined organic layer was dried (MgSO4), filtered, concentrated and purified twice by flash column chromatography (silica gel, 0 to 25% ethyl acetate/hexanes) to give ethyl 2-hydroxy-2-(1-hydroxy-3,4-dimethylnaphthalen-2-yl)acetate. LCMS-ESI− (m/z): [M−H]− calcd for C16H17O4: 273.31. Found: 272.8.

reactant | 3,4-dimethylnaphthalen-1-ol | 18.46 mmol, 3.18 g | CC=1C=C(C2=CC=CC=C2C1C)O | C12H12O
reactant | ethyl glyoxalate | 22.16 mmol, 2.26 g | C(C=O)(=O)OCC | C4H6O3
solvent | dichloromethane | 180 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 18.46 mmol, 18.46 mL | ClCCl | CH2Cl2
product | ethyl 2-hydroxy-2-(1-hydroxy-3,4-dimethylnaphthalen-2-yl)acetate | OC(C(=O)OCC)C1=C(C2=CC=CC=C2C(=C1C)C)O | C16H18O4
